US07544812B2
A solution of [1-(4-methyl-benzyl)-2,5-dioxo-3-propyl-imidazolidin-4-yl]-acetic acid (3.23 g, 10.6 mmol) in THF (50 mL) is treated dropwise with 1 M solution of borane-THF complex in THF (53.1 mL, 53.1 mmol) and then stirred at room temperature under N2 for 4 hours. The reaction is quenched with methanol (30 mL) and stirred at room temperature for 16 hour. The solvent is removed to give crude product that is purified by flash chromatography using 97.5/2.5 CH2Cl2:MeOH to afford 2.46 g (84%) 4-(2-hydroxy-ethyl)-1-(4-methyl-benzyl)-3-propyl-imidazolidin-2-one. 1H NMR. MS (ES+) Calc'd for C16H25N2O2 (M+1) 277. Found m/z 277 (100%).

reactant | [1-(4-methyl-benzyl)-2,5-dioxo-3-propyl-imidazolidin-4-yl]-acetic acid | 10.6 mmol, 3.23 g | CC1=CC=C(CN2C(N(C(C2=O)CC(=O)O)CCC)=O)C=C1 | C16H20N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 53.1 mmol, 53.1 mL | C1CCOC1 | C4H8O
product | 4-(2-hydroxy-ethyl)-1-(4-methyl-benzyl)-3-propyl-imidazolidin-2-one | 2.46 g, 84% | OCCC1N(C(N(C1)CC1=CC=C(C=C1)C)=O)CCC | C16H24N2O2
